US04017621
To a suspension of lithium aluminum hydride (0.03 g) in tetrahydrofuran (5 ml) was added a solution of 5-(4-benzyl-5-oxo-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz-[b,f]azepine (0.5 g) in tetrahydrofuran (15 ml) under ice cooling, and the resulting mixture was stirred at room temperature for 1 hour and refluxed for 10 hours with stirring. The reaction mixture was cooled, admixed with water (2 ml) and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate and evaporated to afford 5-(4-benzyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine as an oily substance. M.P. 139°-140° C (oxalate).

reactant | lithium aluminum hydride | 0.03 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(4-benzyl-5-oxo-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz-[b,f]azepine | 0.5 g | C(C1=CC=CC=C1)N1CC(OCC1=O)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C26H26N2O2
reactant | water | 2 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 5-(4-benzyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | C(C1=CC=CC=C1)N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C26H28N2O
